US04510309
C. 2-(N-Carbethoxy-N-methylamino)methyl-4-carbethoxythiazole
To a solution of (N-carbethoxy-N-methylamino)thioacetamide (30.7 g; 0.17 mole) [prepared in Step B]in 180 ml of absolute ethanol was added a solution of ethyl bromopyruvate (25.0 ml; 0.20 mole) in 130 ml of absolute ethanol. The reaction mixture was heated at reflux temperature for 17 hours and then evaporated under reduced pressure, and the residue was partitioned between ether and water. The organic layer was washed with water and saturated sodium chloride solution, dried, filtered and evaporated under reduced pressure to give an oil which was placed on silica gel and chromatographed using diethyl ether as the eluting solvent. The appropriate fractions yielded the title compound as an oil; TLC [Silica/CH2Cl2 :CH3 -CN (85:15)]gave Rf=0.50. The NMR spectrum (60 MHz) in d6 dimethyl sulfoxide gave the following resonances δ: 8.49 (s, 1H); 4.79 (s, 2H); 4.23 (m, 4H); 3.00 (s, 3H); 1.30 (q, 6H).

reactant | (N-carbethoxy-N-methylamino)thioacetamide | 0.17 mole, 30.7 g | C(=O)(OCC)N(C)CC(=S)N | C6H12N2O2S
reactant | ethyl bromopyruvate | 0.20 mole, 25.0 ml | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 2-(N-Carbethoxy-N-methylamino)methyl-4-carbethoxythiazole | C(=O)(OCC)N(C)CC=1SC=C(N1)C(=O)OCC | C11H16N2O4S
